US07307094B2
2-(4-Fluorophenyl)benzoxazole-7-carboxylic acid was prepared via the lithium hydroxide mediated hydrolysis of methyl 2-(4-fluorophenyl)benzoxazole-7-carboxylate as described in Step B of Example 14. This material was obtained in quantitative yield as a white solid: 1H NMR (500 MHz, DMSO-d6) δ 8.25 (dd, J=14.8, 8.9 Hz, 2H), 8.07 (dd, J=13.1, 1.6 Hz, 1H), 7.92 (dd, J=13.1, 1.6 Hz, 1H), 7.51 (m, 3H); MS (ESI) m/z 258 [M+H]+.

reactant | lithium hydroxide | [OH-].[Li+]
reactant | methyl 2-(4-fluorophenyl)benzoxazole-7-carboxylate | FC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2C(=O)OC | C15H10FNO3
product | 2-(4-Fluorophenyl)benzoxazole-7-carboxylic acid | quantitative yield | FC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2C(=O)O | C14H8FNO3
